US05013477
A mixture of 500 mg of 4-[4-[2-(1,3-dioxolan-2-yl)ethylidene]cyclohexyl]benzamide and 20 ml of dioxan/triethylamine (vol. 9:1) was hydrogenated in the presence of 500 mg of 10 percent platinum-charcoal for 2 hours. The reaction mixture was then filtered and the filtrate was evaporated. Recrystallization of the evaporation residue from 40 ml of dioxan gave 230 mg of 4-[trans-4-[2-(1,3-dioxolan-2-yl)ethyl]cyclohexyl]benzamide as colorless crystals.

reactant | 4-[4-[2-(1,3-dioxolan-2-yl)ethylidene]cyclohexyl]benzamide | 500 mg | O1C(OCC1)CC=C1CCC(CC1)C1=CC=C(C(=O)N)C=C1 | C18H23NO3
catalyst | platinum charcoal | 500 mg | [Pt].C
solvent | dioxan triethylamine | 20 ml | O1CCOCC1.C(C)N(CC)CC
product | 4-[trans-4-[2-(1,3-dioxolan-2-yl)ethyl]cyclohexyl]benzamide | 230 mg | O1C(OCC1)CC[C@@H]1CC[C@H](CC1)C1=CC=C(C(=O)N)C=C1 | C18H25NO3
